US06307067B1
Preparation of 2-(R)-2-Hex-5-enyloxy-but-3-en-1-ol
Following the general procedure of Example 13A, 5-hexenol was added to butadiene monoepoxide, using the following quantities of reagents and solvents: Pd2dba3.CHCl3 (5.2 mg, 5.0 μmol), (±)-8 (10.4 mg, 15 μmol), DMAP (6.2 mg, 50 μmol), a 1.0 M solution of Et3B in THF (5.0 μL, 5.0 μmol), 5-hexenol (240 μL, 2.0 mmol), butadiene monoepoxide (81 μL, 1.0 μmol), CH2Cl2 (10 mL). The reaction time in this case was 4 h. Flash chromatography of the crude material (silica gel, 4:1 pentane-ether) afforded ˜135 mg (80%) of a colorless oil. (enantiomers separated by chiral GLC, Cyclosil B column isothermal 120° C, (S)-(+)-isomerrt=15.52 min, (R)-(−)-isomerrt=16.21 min). 1H NMR (300 MHz) δ 1.36-1.43 (m, 2H), 1.50-1.58 (m, 2H), 1.97-2.04 (m, 2H), 2.50 (br s, 1H), 3.24-3.31 (m, 1H), 3.43-3.53 (m, 3H), 3.71-3.75 (m,1H), 4.89 (d, 1H, J=11 Hz), 4.94 (d, 1H, J=19Hz), 5.20 (d, 1H, J=9 Hz), 5.24 (d, 1H, J=17 Hz), 5.57-5.78 (m, 2H); 13C NMR (75.5 MHz) δ 25.3, 29.1, 33.4, 65.1, 68.6, 81.6, 114.5, 118.4, 135.4, 138.5. Anal. Calc'd. for C10H18O2: C, 70.55; H, 10.66. Found: C, 70.66; H, 10.43.

reactant | 5-hexenol | C(CCCC=C)O | C6H12O
reactant | butadiene monoepoxide | C=CC1CO1 | C4H6O
reactant | CHCl3 | 5.0 μmol, 5.2 mg | C(Cl)(Cl)Cl | CHCl3
reactant | Et3B | B(CC)(CC)CC | C6H15B
reactant | THF | 5.0 μmol, 5.0 μL | C1CCOC1 | C4H8O
reactant | 5-hexenol | 2.0 mmol, 240 μL | C(CCCC=C)O | C6H12O
reactant | butadiene monoepoxide | 1.0 μmol, 81 μL | C=CC1CO1 | C4H6O
catalyst | DMAP | 50 μmol, 6.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(R)-2-Hex-5-enyloxy-but-3-en-1-ol | ˜135 mg, 80% | CC(CCC=C)O[C@@H](CO)C=C | C10H18O2
